### PR TITLE
chore: bump mathlib to v4.34.0-rc2

### PR DESCRIPTION
**Pull request by thefundamentaltheor3m**
Bump mathlib from v4.32.0 to v4.34.0-rc2 (85e3a25e) and the toolchain to leanprover/lean4:v4.34.0-rc2, fixing the resulting breakage.

Most of the breakage comes from Lean 4.34 no longer treating certain semireducible definitions as transparent when checking that a goal is type-correct:

* `ExistsUnique` is now a Mathlib `def`, so `∃!` no longer unfolds to `∃ x, p x ∧ ∀ y, ...`. Restated it in unfolded form once in `addActionOrbitRelEquiv`.
* `x ∈ A ∩ B` no longer behaves as definitionally `x ∈ A ∧ x ∈ B`. Replaced `.left`/`.right`, nested pattern matches and `constructor` with `Set.mem_inter` and `Set.mem_of_mem_inter_left/right`.
* A nested anonymous constructor targeting `SL(2, ℤ)` now yields a term typed at the unfolded subtype, so `α`, `β` and `negI` are built from named `SL(2, ℤ)` defs with `@[simp]` coe lemmas.
* `simp [S]` / `simp [T]` now defeats mathlib's own `coe_S` / `coe_T`; use `SpecialLinearGroup.map_apply_coe` and friends instead of unfolding the generators.

Other fixes:

* `integrableOn_rpow_mul_exp_neg_mul_rpow` now takes `hp : 0 < p`.
* `ModularGroup.modular_S_sq` is derived from the new `S_mul_S_eq`.
* `rw [← Matrix.det]` no longer works; use `Pi.basisFun_det_apply`.
* `ring_nf!` normal-form drift in `H₃_S_action`, where the surviving exponent is a `cpow` and needs `cpow_ofNat` before `mul_pow`.

`lake build` completes with no errors and no new `sorry`s.

### CODE REVIEW

File: SpherePacking/ModularForms/JacobiTheta/Basic.lean [hunk 1]
```diff
@@ -158,10 +158,10 @@ lemma H₃_S_action : (H₃ ∣[(2 : ℤ)] S) = -H₃ := by
   congr
   rw [div_pow, ← cpow_mul_nat, mul_neg, neg_neg]
   ring_nf!
-  rw [← mul_inv, cpow_ofNat, sq, ← mul_assoc, zpow_two]
-  ring_nf!
-  rw [inv_pow, inv_I, even_two.neg_pow, I_sq, mul_neg_one, inv_inv, neg_mul, inv_mul_cancel₀]
-  exact pow_ne_zero _ hx'
+  -- goal is now `(↑x)⁻¹ ^ 2 * ((I * (↑x)⁻¹) ^ 2)⁻¹ = -1`
+  -- goal is `(↑x)⁻¹ ^ (2 : ℕ) * ((I * (↑x)⁻¹) ^ (2 : ℂ))⁻¹ = -1`; note the `cpow` exponent
```
Comment (seewoo5) [inline SpherePacking/ModularForms/JacobiTheta/Basic.lean]: It seems that the comments are almost duplicated?

File: SpherePacking/ModularForms/SlashActionAuxil.lean [hunk 2]
```diff
@@ -25,15 +25,37 @@ open Matrix UpperHalfPlane CongruenceSubgroup ModularGroup
 local notation "GL(" n ", " R ")" "⁺" => Matrix.GLPos (Fin n) R
 local notation "Γ " n:100 => Gamma n
 
-def α : Γ 2 := ⟨⟨!![1, 2; 0, 1], by simp⟩, by simp; decide⟩
+/-- The matrix `[[1, 2], [0, 1]]` as an element of `SL(2, ℤ)`. -/
+def αSL : SL(2, ℤ) := ⟨!![1, 2; 0, 1], by simp⟩
```
Comment (seewoo5) [inline SpherePacking/ModularForms/SlashActionAuxil.lean:29]: Are there reasons to introduce this and define `α` in terms of `αSL`, instead of the previous definition? I guess `coe_αSL` is used in `simp` somewhere but cannot find where it is.. or maybe combined with `SpecialLinearGroup.coe_mul` make things better?

File: SpherePacking/MagicFunction/b/psi.lean [hunk 3]
```diff
@@ -107,32 +107,29 @@ private lemma slashS'' (z : ℍ) (F : ℍ → ℂ) : F (S • z) =
...
+  simp [SpecialLinearGroup.map_apply_coe]
 
 private lemma slashT' (z : ℍ) (F : ℍ → ℂ) : ((F) ∣[(-2 : ℤ)] (T)) (z) =  (F) (T • z) := by
-  rw [SL_slash_apply, T, denom]
-  simp
+  rw [SL_slash_apply, denom]
+  simp [SpecialLinearGroup.map_apply_coe]
  -- no need for slashT'', as ← slashT already fulfils that role
 
 private lemma S_mul_T : S * T = ⟨!![0, -1; 1, 1], by norm_num [det_fin_two_of]⟩ := by
```
Comment (arajasek) [inline SpherePacking/MagicFunction/b/psi.lean]: nit: this is now unused

File: SpherePacking/MagicFunction/b/psi.lean [hunk 4]
```diff
@@ -493,25 +490,17 @@ lemma ψS_slash_ST_apply (z : ℍ) :
     (ψS ∣[-2] (S * T)) z = ψS ⟨-1 / (z + 1), neg_inv_one_add_mem z⟩ * (z + 1) ^ 2 := by
   rw [SL_slash_apply ψS (S * T) z, ← neg_inv_one_add_eq_ST z]
   congr 1
-  rw [denom, ModularGroup.ST_eq']
```
Comment (arajasek) [inline SpherePacking/MagicFunction/b/psi.lean:496]: `ModularGroup.ST_eq'` is now unused, consider deleting from IntegralParametrisations.lean?

File: SpherePacking/MagicFunction/b/psi.lean [hunk 5]
```diff
@@ -493,25 +490,17 @@ lemma ψS_slash_ST_apply (z : ℍ) :
...
+  rw [denom]
+  simp [SpecialLinearGroup.map_apply_coe, Matrix.mul_apply, Fin.sum_univ_two]
 
 lemma ψS_slash_ST_apply' (z : ℍ) : (ψS ∣[-2] (S * T)) z = ψS' (-1 / (z + 1)) * (z + 1) ^ 2 := by
   rw [ψS_slash_ST_apply, ← ψS'_eq_ψS_of_mem]
 
 lemma ψS_slash_S_apply (z : ℍ) : (ψS ∣[-2] S) z = ψS ⟨-1 / z, neg_inv_mem z⟩ * z ^ 2 := by
   rw [SL_slash_apply ψS S z, ← neg_inv_eq_S z]
   congr 1
-  rw [denom, ModularGroup.S_eq']
```
Comment (arajasek) [inline SpherePacking/MagicFunction/b/psi.lean:509]: `ModularGroup.S_eq'` also now unused, consider deleting from IntegralParametrisations.lean?

**Review by arajasek — COMMENTED** [review]
Changes lead to some unused lemmas, consider deleting.
